US04501687
Using the procedure of Example 15, 2 g of (1R,S) 1,2,2-trimethyl-3-(2-butenyl)-cyclopentanol and 15 ml of acetyl chloride were reacted to obtain 1.8 g of (1R,S) 1,2,2-trimethyl-1-acetyloxy-3-(2-butenyl)-cyclopentane.

reactant | (1R,S) 1,2,2-trimethyl-3-(2-butenyl)-cyclopentanol | 2 g | C[C@@]1(C([C@@H](CC1)CC=CC)(C)C)O | C12H22O
reactant | acetyl chloride | 15 ml | C(C)(=O)Cl | C2H3ClO
product | (1R,S) 1,2,2-trimethyl-1-acetyloxy-3-(2-butenyl)-cyclopentane | 1.8 g | C[C@@]1(C([C@@H](CC1)CC=CC)(C)C)OC(C)=O | C14H24O2
